US05929067
(f) 3-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-4,4-diphenyl-butanoic acid
25 ml of 1N sodium hydroxide are added to a solution of 7.8 g (15 mmol) of 3-[N-(3,5-bis-trifluoromethyl-benzoyl)-N-methyl-amino]-4,4-diphenyl-butanoic acid methyl ester in 100 ml of tetrahydrofuran/methanol (2:1). After 5 hours the reaction mixture is concentrated by evaporation, diluted with water and rendered acidic with cold 2N hydrochloric acid. The white precipitate is filtered off, then washed with water and dried under a high vacuum at 50° C. The title compound is obtained in the form of a white solid. TLC: methylene chloride/methanol (95:5) Rf =0.14; Rt (HPLC)=19.2 min; 1H-NMR (400 MHz, d6 -DMSO, 150° C.) d 7.96 (br, 1H), 7.42-7.19 (m, 12H), 5.42 (br, 1H), 4.45 (d, 1H), 2.79 (dd, 1H), 2.72 (s, 3H), 2.37 (dd, 1H); FAB-MS (M+H)+ =510.

reactant | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
reactant | 3-[N-(3,5-bis-trifluoromethyl-benzoyl)-N-methyl-amino]-4,4-diphenyl-butanoic acid methyl ester | 15 mmol, 7.8 g | COC(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C27H23F6NO3
solvent | tetrahydrofuran methanol | 100 ml | O1CCCC1.CO
product | 3-[N-(3,5-Bistrifluoromethyl-benzoyl)-N-methyl-amino]-4,4-diphenyl-butanoic acid | FC(C=1C=C(C(=O)N(C)C(CC(=O)O)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C26H21F6NO3
